US09278983B2
To a mixture of 2-(2-ethylsulfanyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine and chloroform (5 ml), 69% of 3-chloroperbenzoic acid (1.05 g) was added under ice-cooling, and then heated to room, temperature, and stirred for 1.5 hours. Then, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution was poured, and extracted with chloroform. The combined organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.20 g of 2-(2-ethylsulfonyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine (hereinafter, Present Compound 306).

reactant | 2-(2-ethylsulfanyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine | C(C)SC1=C(C=CC(=C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C17H13F6N3S2
reactant | 3-chloroperbenzoic acid | 1.05 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-ethylsulfonyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine | 0.20 g | C(C)S(=O)(=O)C1=C(C=CC(=C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C17H13F6N3O2S2
